US05166204
A mixture of 5.0 g of 1-nitro-2-(1,3-pentadienyl)benzene and 2.9 g of maleic anhydride was stirred at 150° C. for 5 hours. Thereto were added 150 ml of toluene and 3.2 ml of benzylamine. The resulting mixture was azeotropically refluxed for 2 hours, and then cooled to room temperature. Thereto were added 150 ml of ethyl acetate and 100 ml of water. The organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: toluene/ethyl acetate=1/0 to 20/1) to obtain 3.0 g (yield: 30%) of N-benzyl-3-methyl-6-(2-nitrophenyl)-1,2,3,6-tetrahydrophthalimide as colorless crystals.

reactant | 1-nitro-2-(1,3-pentadienyl)benzene | 5.0 g | [N+](=O)([O-])C1=C(C=CC=C1)C=CC=CC | C11H11NO2
reactant | maleic anhydride | 2.9 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
reactant | benzylamine | 3.2 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyl-3-methyl-6-(2-nitrophenyl)-1,2,3,6-tetrahydrophthalimide | 3.0 g, yield: 30% | C(C1=CC=CC=C1)N1C(C2C(C1=O)C(C=CC2C2=C(C=CC=C2)[N+](=O)[O-])C)=O | C22H20N2O4
